US04971982
2.34 g of 2-iodoanisole were added at room temperature to a solution of 9 mg of palladium(II) chloride, 26 mg of triphenylphosphine and 19 mg of copper(I) iodide in 25 ml of diethylamine. This mixture was treated with 1.85 g of 4-(1,1-dimethyl-2-propynyloxy)benzonitrile and the resulting mixture was stirred for 48 hours. The mixture was evaporated and the residue was dissolved in a mixture of ethyl acetate and water. The organic phase was separated, dried over sodium sulphate and evaporated. The residue was chromatographed on silica gel using ethyl acetate/petroleum ether (1:4) for the elution to give 0.99 g of 4-[1,1-dimethyl-3-(2-methoxyphenyl)-2-propynyloxy]benzonitrile in the form of an oil.

reactant | 2-iodoanisole | 2.34 g | IC1=C(C=CC=C1)OC | C7H7IO
reactant | 4-(1,1-dimethyl-2-propynyloxy)benzonitrile | 1.85 g | CC(C#C)(OC1=CC=C(C#N)C=C1)C | C12H11NO
solvent | diethylamine | 25 ml | C(C)NCC | C4H11N
catalyst | palladium(II) chloride | 9 mg | [Pd](Cl)Cl
catalyst | copper(I) iodide | 19 mg | [Cu]I
catalyst | triphenylphosphine | 26 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 4-[1,1-dimethyl-3-(2-methoxyphenyl)-2-propynyloxy]benzonitrile | 0.99 g | CC(C#CC1=C(C=CC=C1)OC)(OC1=CC=C(C#N)C=C1)C | C19H17NO2
